US04276364
Preparation of 4-[4-(2-formylhydrazino)phenylthiocarbamoyl]morpholine (NA-21)
Morpholine (0.087 g, 0.001 mole) and 4-(2-formylhydrazino)phenyl isothiocyanate (0.19 g, 0.001 mole) were reacted according to the procedure described for NA-11 in Example 3. Yield 0.22 g (79 percent), m.p. 204°-206° C.

reactant | Morpholine | 0.001 mole, 0.087 g | N1CCOCC1 | C4H9NO
reactant | 4-(2-formylhydrazino)phenyl isothiocyanate | 0.001 mole, 0.19 g | C(=O)NNC1=CC=C(C=C1)N=C=S | C8H7N3OS
reactant | 1-[4-(2-formylhydrazino)phenyl]-3,3-dibenzylthiourea | C(=O)NNC1=CC=C(C=C1)NC(=S)N(CC1=CC=CC=C1)CC1=CC=CC=C1 | C22H22N4OS
product | 4-[4-(2-formylhydrazino)phenylthiocarbamoyl]morpholine | C(=O)NNC1=CC=C(C=C1)NC(=S)N1CCOCC1 | C12H16N4O2S
